US06794400B2
4-(2,4-Dimethylphenyl)-1-(2-methylthiazole-5-carbonyl)semicarbazide
The title compound was prepared from a mixture 2,4-dimethylphenylisocyanate (50 mg, 0.34 mmol) and 2-methylthiazole-5-carboxylic acid hydrazide (59 mg, 0.37 mmol) in methylenedichloride (10 mL). The mixture was stirred at room temperature for 2 h, and the resultant precipitate was collected by filtration and isolated as pale white solid (66 mg, 64%). 1H NMR (DMSO-d6): 10.00 (s, 1H), 8.39 (s, 1H), 8.25 (s, 1H), 7.88 (s, 1H), 7.46 (d, J=8.1 Hz, 1H), 6.99 (s, 1H), 6.87 (d, J=8.1 Hz, 1H), 2.72 (s, 3H), 2.22 (s, 3H), 2.16 (s, 3H).

reactant | 2,4-dimethylphenylisocyanate | 0.34 mmol, 50 mg | CC1=C(C=CC(=C1)C)N=C=O | C9H9NO
reactant | 2-methylthiazole-5-carboxylic acid hydrazide | 0.37 mmol, 59 mg | CC=1SC(=CN1)C(=O)NN | C5H7N3OS
solvent | methylenedichloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-(2,4-Dimethylphenyl)-1-(2-methylthiazole-5-carbonyl)semicarbazide | CC1=C(C=CC(=C1)C)NC(NNC(=O)C1=CN=C(S1)C)=O | C14H16N4O2S
